US07642270B2
B. 4-[Cyclohexyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester
3-Cyclohexylamino-propionic acid ethyl ester (1.0 g, 5.0 mmol) and 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (1.17 g, 5.02 mmol) were combined in DCM (15 mL) and diisopropylethylamine (0.81 g, 6.3 mmol) was added. After 16 h, the solution was partitioned between water and DCM and the organic layer was dried (MgSO4) and concentrated. Chromatography (0-20% EtOAc/hexanes gradient) provided 1.63 g (84%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ ppm 8.39 (s, 1H) 5.30 (s, 1H), 4.30 (q, 2H, J=7.1 Hz), 4.14 (q, 1H, J=7.1 Hz), 3.76-3.80 (m, 2H), 2.65-2.69 (m, 2H), 2.49 (s, 3H), 1.81-1.84 (m, 2H), 1.34-1.40 (m, 7H), 1.12-1.27 (m, 7H).

reactant | 3-Cyclohexylamino-propionic acid ethyl ester | 5.0 mmol, 1.0 g | C(C)OC(CCNC1CCCCC1)=O | C11H21NO2
reactant | 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 5.02 mmol, 1.17 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | diisopropylethylamine | 6.3 mmol, 0.81 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[Cyclohexyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 1.63 g, 84% | C(C)OC(=O)C=1C(=NC(=NC1)SC)N(CCC(=O)OCC)C1CCCCC1 | C19H29N3O4S
